US05328917
105 mmol 4-trifluoromethylcinnamoyl-N-pentylamide, 116 mmol diethyl malonate, and 285 mmol sodium ethoxide were refluxed in a 1:1 touene/diglyme mixture for 7 h, cooled and washed with dilute HCl and water. Evaporation at 2 torr gave a dark red oil, which was purified by column chromatography on silica to give 23 g 4-(4-trifluoromethyl-phenyl)-3-ethoxycarbonyl-1-pentylpiperidine-2,6-dione as a reddish oil. 57 mmol 4-(4-trifluoromethylphenyl)-3-ethoxycarbonyl-1-pentylpiperidine-2,6-dione in 100 ml THF was slowly added with stirring to a suspension of 260 mmol LiAlH4 in 100 ml THF maintaining the temperature at 10° C., followed by stirring at room temperature overnight. Excess hydride was destroyed by addition of water, followed by 500 ml 4 N HCl. The THF was removed by evaporation, the aqueous phase was extracted by methylene chloride, and the organic phase was washed with 4 N NaOH, dried, and evaporated. Column chromatography on silica yielded the pure compound, which was crystallized from EtOAc. Compound (93). Yield 3.7 g. M.p. 112°-115° C.

reactant | 4-trifluoromethylcinnamoyl-N-pentylamide | 105 mmol | FC(C1=CC=C(C=CC(=O)[N-]CCCCC)C=C1)(F)F
reactant | diethyl malonate | 116 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | 285 mmol | [O-]CC.[Na+]
solvent | diglyme | COCCOCCOC | C6H14O3
product | 4-(4-trifluoromethyl-phenyl)-3-ethoxycarbonyl-1-pentylpiperidine-2,6-dione | 23 g | FC(C1=CC=C(C=C1)C1C(C(N(C(C1)=O)CCCCC)=O)C(=O)OCC)(F)F | C20H24F3NO4
